US06683187B2
11. Preparation of 2,6-bis[(2,6-difluorophenylimino)-(phenyl) methyl]pyridine (8)
2,6-Dibenzoylpyridine (464 mg, 1.61 mmol) and 2,6-difluoroaniline (7.33 mg, 5.67 mmol) were dissolved in 30 ml of toluene. To this solution molecular sieves (4 Å) were added. After standing for 3 days at room temperature (with addition of more molecular sieves after 2 days) the mixture was filtered. The solvent was removed in vacuo. The residue was crystallised from ethanol. Yield 250 mg (30%) of 2,6-bis[(2,6-difluorophenylimino) (phenyl) methyl]pyridine 8 as a mixture of 3 isomers.

reactant | 2,6-Dibenzoylpyridine | 1.61 mmol, 464 mg | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1)C(C1=CC=CC=C1)=O | C19H13NO2
reactant | 2,6-difluoroaniline | 5.67 mmol, 7.33 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis[(2,6-difluorophenylimino)-(phenyl) methyl]pyridine | FC1=C(C(=CC=C1)F)N=C(C1=NC(=CC=C1)C(C1=CC=CC=C1)=NC1=C(C=CC=C1F)F)C1=CC=CC=C1 | C31H19F4N3
